Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
amoxicillin / azoles
 
Attending: ___.
 
Chief Complaint:
"I don't remember."
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
As per Dr. ___ initial psychiatry ___ consult:
"Ms. ___ is a ___ year old female with a past
psychiatric history of depression who presented to ___ via
ambulance after taking an unknown dose of klonopin and fioricet. 

     On initial interview, the patient was very drowsy and only
able to minimally answer questions.  The patient states that she
does not remember what happened, and does not remember taking 
any
pills.  She is unable to say the last thing that she remembers.
     The patient endorses depression, difficulty sleeping,
decreased appetite, difficulty concentrating, feelings of guilt,
and feelings of hopelessness. Patient unable to expand on when
she started feeling depressed or any events that have caused it
to worsen lately. Denies SI/HI. 
     Patient denies anxiety, panic attacks, or auditory or 
visual
hallucinations. 
     When asked who she lives with, the patient states, "with my
mother and father." When asked if she lives with her husband and
children, the patient says "oh ___ I guess I do."
     Patient repeatedly closes eyes during conversation and is
unable to elaborate on any events."

Collateral, per Dr. ___ psychiatry ___ consult 
note: 
"Spoke to ___ husband, ___, (___) with
the ___ permission:
Mr. ___ states that two days ago she was feeling 
depressed
and hopeless. She is starting a new job as a ___ and was
worrying about being a failure. She previously stayed at home
with their two children. ___ evening she took ___ mg of
Klonapin.  Her husband says that he was "monitoring her" and she
seemed ok.  Yesterday morning, she took some fiorcet and more
Klonapin, but he is not sure of the amounts. She became drowsy
and passed out.  Her husband states that he was watching her and
since she was breathing normally and seemed OK and he wasn't
concerned. However, today when she was still "out of it" he
decided to call an ambulance. 
     The ___ husband says that she has recently told him
that she had been thinking about hurting herself, but when he
asked her if he should worry she said no. Mr. ___ states
that he thinks that she was just trying to "knock herself out"
for a while by taking the medication."

___ Course, per Dr. ___ psychiatry ___ consult note: 

"Patient somnolent and disoriented in ___. Patient required 4 
point
soft restraints due to climbing OOB.  Patient climbed over rail
and fell out of bed hitting head on glass door to room. HCT was
negative. Patient pulled foley cath out with balloon intact and
pulled IV out. Patient required a total of 2 mg Ativan for
agitation."

Later in ___, per Dr. ___ addendum to initial ___ 
psychiatry consult note:
"Upon initial interview, pt was very drowsy and speaking with 
slurred speech. 
She had difficulty articulating speech often restarting a
sentence or repeating the question, she said it was ___ and did
not know where she was.  She was able to recognize her husband
and kept repeating, "I did not do anything wrong". On
re-evaluation, she was more awake complaining that she needed to
urinate, despite reassurance that she had a catheter in place.
She still had slurred speech and said she was in a psychiatric
office. She was able to say it was ___. She said that 
she
took an entire bottle of her klonopin yesterday because she was
really sad and wanted to die."

As per primary team discussion with patient:
She states on our interview that on ___, that she 
initially took 2 pills of fioricet, then wasn't sure if she took 
too much klonopin (in past psychiatry notes since arrival, 
different reports about amount of medications include ___ mg 
klonopin per husband's collateral in ___, 6 pills of
fioricet and 3 pills of klonopin per ___ resident accept note,
and per Dr. ___ note in addendum, patient
stated took "an entire bottle of klonopin because she really sad
and wanted to die").

     She states as per her husband was reportedly "loopy" from
___ to ___.  She states was "unconscious for 36 hours"
after taking these medications.  She woke up in ___ and felt
confused, states the experience was "nightmarish".  She states
doesn't want to die at this moment, though doesn't remember
making any SI comments in ___ as states she was "out of it."  She
later states this recent event was not an overdose, that this
event had little to do with her decisions and it was because
medications had side-effects she did not know about.   

     States her mood before hospitalization had been "up and 
down" and chronically has a few hours to days every few months 
when she would suddenly feel very sad, upset and crying a great 
deal.  

     She denies ever having clear symptoms of mania, such as
decreased need for sleep, increased energy, elevated mood,
increased irritability, or periods of increased risky or
goal-directed behavior.   

     She at one point states sometimes has difficulty with
anxiety, at different parts of interview denies this later on. 

Collateral: There were multiple communications with different
providers and family.

Our team spoke with Dr. ___, ___-
     States had been working with patient for ___ years.  States
husband called Dr. ___ to let her know patient had taken too
many medications.  She states in past patient had chronic
thoughts of SI that included intermittent imagery of imagining
herself in a bath, bleeding out from her wrists, though 
therapist
states patient previously denied any intent or clear plan while
in outpatient practice with her, and that this event was a 
surprise to her.  
     Dr. ___ previous working diagnoses of major
depressive disorder, with question of character
pathology/attachment pathology, as well as issues with negative
view of self and anxiety.  
     Dr. ___ stated in this phone call that she would defer to 
team for decision about whether feel safe with discharging home, 
and that she as outpatient provider would feel safer if before 
time of discharge she had family such as ___ 
sister/husband around at time of discharge.  

Later spoke with ___ husband, ___, and ___ sister, 
on ___, ___.  
-Mr. ___ husband, who initially found patient 
as
per his collateral from ___ ___ note, initially with report on
___ of about ___ mg of klonopin, and her sister now report it 
is
unclear how much medication was taken, this appears more likely
to have been an accident, and align with ___ wish to be
discharged as soon as possible.  They state have been texting
with ___ therapist, and wish for us to further discuss
disposition with outpatient providers.     

Collateral from Dr. ___ who works with her
outpatient psychiatric NP ___ reviewed past notes
from and discussions with ___ (who is currently away). 
In their discussions of ___ care, states patient was 
previously
on fairly high dose of lexipro, approximately up to 50 mg daily,
with wellbutrin and trazodone.  She states patient had stressors 
related
to taking care of her children, ___ and ___ started 
decreasing lexipro dose and increasing wellbutrin before ___.  
As per
Dr. ___ ___, patient was noted to have about a week
of not being able to sleep at all on increased dose of
wellbutrin.  States though could have been significantly
activated from medication, alternatively could be concerned this 
could have been
a mixed episode.  Given our description of how patient came into
hospital and our concerns, combined with her past history, Dr.
___ agreement with our plan to treat in hospital 
over
weekend and offer trial of abilify both as adjunct and for
possible help with mood stabilization. 
 
Past Medical History:
Past psychiatric history, reviewed and updated where needed from 
initial consult note by Dr. ___, as taken from ___ 
husband:
___: major depressive disorder 
Hospitalizations: hospitalized at ___ after a suicide
attempt in college

Current treaters and treatment: patient see a nurse 
___. Patient also normally sees a therapist 2x/week, 
but
the therapist has been on vacation for the past 2 weeks
Therapist is ___ at ___. 

Medication and ECT trials: patient was taking 40 mg Lexapro
daily, but NP was tapering patient off Lexapro and potentially
starting another medication. The ___ husband thinks that
she has been taking ___ mg daily recently. 

Self-injury/Suicide attempts: suicide attempt freshman year of
college ___ years ago) via drug overdose, patient also cut
herself on her legs in high school and college

On interview with patient, patient says that she "clearly" has
been hospitalized before, but unable to explain further.  She
states that she sees a psychiatrist, but is unable to say who."

PMH: migraine headaches
 
Social History:
___
Family History:
-States has a grandfather who passed away from completed 
suicide.
-Sisters with depression
 
Physical Exam:
Admission Physical Exam, as taken by Dr. ___ on ___:
"Neurological:  
 *station and gait: not able to assess 
 *tone and strength: Patient moves all 4 extremities
symmetrically, full apparent strength
 cranial nerves: CN II-XII grossly normal 
 abnormal movements: no tics, tremors, evidence of EPS
 frontal release: not assessed 

Cognition: 
 Wakefulness/alertness: drowsy, frequently closes eyes
 *Attention (MOYB): unable to state MYOB 
 *Orientation: states her name and that she is in a hospital but
not which hospital, does not know day, or date, and states that
it is ___ or ___ 
 Executive function (go-no go, Luria, trails, FAS): not assessed 

 *Memory: patient unable to recall events of past 24 hours 
 *Fund of knowledge:  difficult to assess, able to state
president, unable to state presidential candidates then later
states ___" when speaking about another subject
 Calculations: unable to assess 
 Abstraction:  unable to assess 
 Visuospatial: no gross deficits 
 *Speech: soft, slurred, slow 
 *Language: fluent ___ 
 
Mental Status:
Appearance: lying in bed, appropriate hygiene, wearing hospital
gown, well healed scars on bilateral lower extremities 
Behavior: somewhat cooperative but cooperation limited due to
sedation, mild psychomotor agitation
Mood and Affect: "..." / slightly irritable 
Thought Process: mostly linear and goal-directed but difficult 
to
assess due to drowsiness. No LOA.
Thought Content: denies SI/HI/AH/VH, no evidence of delusions or
paranoia
Judgment and Insight: poor/poor"
 
Pertinent Results:
___ 03:20PM   WBC-17.7*# RBC-4.70 HGB-14.0 HCT-41.9 MCV-89 
MCH-29.8 MCHC-33.4 RDW-12.6 RDWSD-41.1
___ 03:20PM   NEUTS-82.3* LYMPHS-11.8* MONOS-5.2 EOS-0.1* 
BASOS-0.2 IM ___ AbsNeut-14.58*# AbsLymp-2.08 AbsMono-0.92* 
AbsEos-0.01* AbsBaso-0.04
___ 03:20PM   GLUCOSE-99 UREA N-8 CREAT-0.7 SODIUM-140 
POTASSIUM-3.8 CHLORIDE-103 TOTAL CO2-24 ANION GAP-17
___ 03:20PM   ALT(SGPT)-35 AST(SGOT)-72* ALK PHOS-51 TOT 
BILI-0.4
___ 03:20PM   LIPASE-16
___ 03:20PM   ALBUMIN-4.8 CALCIUM-9.4 PHOSPHATE-2.0* 
MAGNESIUM-2.2
___ 03:20PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-POS* tricyclic-NEG
___ 04:45PM URINE  bnzodzpn-NEG barbitrt-POS* opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 04:45PM URINE  UCG-NEGATIVE
___ 08:15AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-POS* tricyclic-NEG
___ 08:15AM   ALT(SGPT)-32 AST(SGOT)-53* ALK PHOS-44 TOT 
BILI-0.4
___ 08:18AM   LACTATE-0.9
 
Brief Hospital Course:
SAFETY:  The pt. was placed on 15 minute checks on admission and 

remained here on that level of observation throughout.  She was 
unit-restricted.  In the ___, she was briefly requiring 
soft-point restraints for trying to repeatedly trying to jump 
out of bed after taking too many medications at home, and when 
appearing quite increasingly drowsy, at one point required a 
chemical restraint in ___, before admission required Ativan 2 mg 
once.  
 
LEGAL: ___
PSYCHIATRIC: Patient initially was quite drowsy in ___ and on 
arrival to floor after medication overdose.  She was initially 
continued on her home lexipro, Wellbutrin and trazodone.  When 
she became more clear, appeared very anxious and focusing on 
leaving hospital as soon as possible, initially denying this was 
an overdose, stating she did not know how many medications she 
took.  We were initially concerned about inconsistent reports of 
number of medications she took during different parts of 
hospitalization.  In an interview with primary team on 
psychiatry floor, stated that on ___, she initially 
took 2 pills of fioricet, then stated wasn't sure if she took 
too much klonopin (in past notes since
arrival, different reports about amount of medications included
___ mg klonopin per husband's collateral in ___, 6 pills of
fioricet and 3 pills of klonopin per ___ resident accept note,
and per Dr. ___ addendum in addendum, patient
stated took an entire bottle of klonopin because she was "really 
sad
and wanted to die").   

We spoke with ___ therapist and with psychiatrist who 
works with ___ outpatient psychiatric NP, with details 
above in HPI section.  We spoke with Dr. ___ 
___ at her outpatient practice who works with ___ 
___, NP who was away this week, who agreed with considering 
starting abilify and with our plan to observe over weekend.  

We offered trial abilify 2 mg PO daily as an adjunct for 
depression.  Patient was in contact with her outpatient 
therapist, Dr. ___ the weekend, and felt this was 
helpful in her eventual transition to the outpatient setting.  
Her family offered to lend additional support once she was 
discharged.  She was observed over the weekend, though there was 
initial concern for significant minimization of events leading 
to hospitalization, specifically overdose, and role she played 
in these events, patient was participating in treatment.  She as 
well as her family were organized and helpful at coordinating 
their future outpatient plans with their providers.  

On ___, briefly spoke with ___ PCP, ___, 
___ had prescribed fioricet.  ___ PCP states this event 
was a surprise, states she had previously removed klonopin 
medication in computer system after prescribing fioricet, that 
it appears ___ medications she was taking de facto daily 
appears to have been different from what patient had verbally 
described to PCP, and believes she had verbally discussed not 
taking both at same time with patient.  She agrees with our 
recommendation to avoid prescribing fioricet for patient after 
discharged from hospital.  

At time of discharge, she denied SI, her minimization and 
externalization of her overdose and its causes appeared somewhat 
decreased, and we also believed would be helpful for her 
long-term recovery to be discharged before her new work as 
___ began on ___.  Therefore, we decided to 
continue with discharge on ___.  Of note, on day of 
discharge, there was some intermittent focusing on timing of 
discharge, how events will appear in records, intermittently 
deciding if she should ask her lawyer to come into hospital.  
She wished to clarify that she does not believe taking too many 
medications the week before was intentional, and does not wish 
for an event like this to happen again. 

At time of discharge, patient denied having significant side 
effects from abilify.  She states was briefly feeling more 
"activated" on day of first dose but currently this has 
improved.   
  
GENERAL MEDICAL CONDITIONS:
#) Migraine headaches-Chronic, stable during this 
hospitalization.  We suggest not continuing fioricet in 
outpatient setting given medication overdose before arrival, 
have discussed this with ___ PCP.  
  
PSYCHOSOCIAL:
#) GROUPS/MILIEU: Pt was encouraged to participate in unit’s 
groups/milieu/therapy opportunities. Use of coping skills and 
mindfulness/relaxation methods were encouraged. Therapy 
addressed family, social, and work issues.  We discussed 
disposition planning with patient, her family, and outpatient 
providers.
 
#) COLLATERAL CONTACTS/FAMILY INVOLVEMENT: We spoke to ___ 
husband and sister, as well as her therapist, outpatient 
psychiatric prescribing office (spoke with Dr. ___ as 
___ NP was away), and her PCP before time of discharge. 
 Can see above for details.  
 
#) INTERVENTIONS:
- Medications: continued Wellbutrin and lexipro, offered 
abilify.  
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: set up outpatient appointments.  
- Behavioral Interventions (e.g. encouraged DBT skills, ect): 
supportive psychotherapy, encouraged DBT skills
 
INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting these medications, and risks  and benefits of possible 
alternatives, including not taking the medication, with this 
patient.   We discussed the ___ right to decide whether to 
 take this medication as well as the importance of the ___ 
actively participating in the treatment and discussing any  
questions about medications with the treatment team, and I  
answered the ___ questions.  The patient appeared able to 
understand and consented to begin the medication.
 
RISK ASSESSMENT:
 
Acute risk factors included overdose causing sedation for at
least ___ days before able to give a clear history, depressed
mood, intermittent difficulty with anxiety, difficulty with
coping skills, and impulsivity.  We were initially concerned for
notable minimization of events and externalization of what led 
to
her overdose, as well as inconsistent reporting of what she 
took,
as well as in ___ consult note stating she "wanted to die",
though later denying this, which was initially concerning for 
limited insight and judgment. We attempted to mitigate these 
factors with medication management, specifically with offering 
of abilify as adjunct for depression, offering individual, group 
and milieu therapy (patient especially felt benefited from her 
phone calls to her outpatient therapist while in hospital), and 
aftercare planning with her outpatient providers.  We have 
spoken with ___ therapist and her outpatient psychiatry 
office (spoke with Dr. ___ as her regular prescriber, NP 
___, was away), as well as her PCP to coordinate 
appropriate disposition planning.  We have had discussions with 
___ husband and one of ___ sisters, who both wish to 
spend time with her directly after time of discharge to offer 
additional support.  We were able to observe patient to monitor 
for safety and trial abilify, with minimal side-effects at time 
of discharge.  

Chronic risk factors include past suicide attempt, family 
history
of completed suicide, chronic mental illness, chronic medical
problems.  Protective factors include good reality testing, a 
desire to get additional help, steady outpatient providers and 
concerned family.  
 
PROGNOSIS: Good-though there are chronic risk factors in past 
history such as past suicide attempt and family history of 
suicide attempt, and though there initially was minimization of 
meaning of overdose, patient has a desire to get additional 
help, has tolerated new medication abilify, wishes to follow-up 
with outpatient providers, has caring family members who wish to 
give additional support during this time, and therefore believe 
at this time that patient has good chance of continuing to get 
better, and that the least restrictive treatment at this current 
time would be to continue in the outpatient setting with her 
therapist and her psychiatric NP.  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Escitalopram Oxalate 20 mg PO DAILY 
2. Acetaminophen-Caff-Butalbital ___ TAB PO TID:PRN Headache 
3. TraZODone 150 mg PO QHS 
4. BuPROPion XL (Once Daily) 450 mg PO DAILY 
5. ClonazePAM 0.5 mg PO Frequency is Unknown anxiety 

 
Discharge Medications:
1.  ARIPiprazole 2 mg PO DAILY 
RX *aripiprazole 2 mg 1 tablet(s) by mouth daily Disp #*14 
Tablet Refills:*0 
2.  BuPROPion XL (Once Daily) 450 mg PO DAILY  
3.  Escitalopram Oxalate 20 mg PO DAILY  
4.  TraZODone 150 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major depressive disorder

 
Discharge Condition:
Ambulatory, currently denying SI, less minimization of events 
leading to hospitalization.  

T 98.5, BP 122/89, P ___, RR 16, O2 Sat 100% RA.  

Neurological:
    *station and gait: WNL  
    *tone and strength: Moving all extremities.
    cranial nerves: Not formally tested
    abnormal movements: No tremors, tics or dyskinesias, no
psychomotor agitation or retardation.
    frontal release: None 

  *Appearance: Hygiene and grooming is good, patient appears
stated age.  
  Behavior: Patient for most part able to have calm and 
cooperative
conversation with somewhat less minimization about events 
leading to hospitalization compared to initial arrival. 
  *Mood and Affect: 'normal, a little nervous'; full range of 
affect, mood congruent, not labile, appropriate.
  *Thought process: Mostly linear, logical, goal-oriented, at 
times focused on timing of discharge and how records may look 
post-discharge.  No LOA.  
  *Thought Content: Denies current SI or HI. Denies AH or VH.  
Denies paranoia.  
  *Judgment and Insight: Fair/fair
    Cognition:
    *Attention, *orientation, and executive function: A and Ox3,
attends to interview
    *Memory: Not formally tested, STM and LTM grossly appear
intact.
    *Fund of knowledge: Not formally tested, appears grossly
intact.
    *Speech: Regular rate, rhythm, tone, prosody and volume 
    *Language: Fluent ___

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

*It was a pleasure to have worked with you, and we wish you the 
best of health.*
 
Followup Instructions:
___